US04332969
The procedure described in Example 1 (a) is repeated except that 3.4 g (0.011 mol) of triphenyl phosphite, 72.4 g (0.4 mol) of 1-(3-pentyl-4,4-diethyl-2-aza-1,3-butadiene [prepared by reacting 2-ethyl-butyraldehyde with ammonia in accordance with U.S. Pat. No. 2,319,848] and 48.4 g (0.895 mol) of 1,3-butadiene are used. Working up as described in Example 1 (a) yields 56.8 g (0.197 mol) of 3,3-diethyl-12-(3-pentyl)-1-aza-1,5,9-cyclododecatriene, corresponding to a yield of 51.2% of theory, based on converted 1-(3-pentyl)-4,4-diethyl-2-aza-1,3-butadiene (conversion 96.4%); boiling point 90°-92° C./10-3 mm Hg; nD20 =1.4840.

reactant | triphenyl phosphite | 0.011 mol, 3.4 g | P(OC1=CC=CC=C1)(OC1=CC=CC=C1)OC1=CC=CC=C1 | C18H15O3P
reactant | 3-pentyl-4,4-diethyl-2-aza-1,3-butadiene | C(CCCC)C(N=C)=C(CC)CC | C12H23N
reactant | 2-ethyl-butyraldehyde | C(C)C(C=O)CC | C6H12O
reactant | ammonia | N | H3N
reactant | 1,3-butadiene | 0.895 mol, 48.4 g | C=CC=C | C4H6
product | 3,3-diethyl-12-(3-pentyl)-1-aza-1,5,9-cyclododecatriene | 0.197 mol, 56.8 g, yield of 51.2% | C(C)C1(C=NC(CC=CCCC=CC1)C(CC)CC)CC | C20H35N
